US05457105
Using an analgous procedure to that described in Example 74, 4-chloro-6,7-dimethoxyquinazoline was reacted with 1,4-phenylenediamine to give 4-(4'-aminoanilino)-6,7-dimethoxyquinazoline hydrochloride in 85% yield, m.p. 274°-276° C. NMR Spectrum: (CD3SOCD3) 3.95 (s, 3H), 3.98 (s, 3H), 6.75 (d, 2H), 7.35 (s, 1H), 7.38 (d, 2H), 8.25 (s, 1H), 8.67 (s, 1H), 11.05 (broad s, 1H); Elemental Analysis: Found C, 57.6; H, 5.0; N, 16.9; C16H16N4O2. 1HCl requires C, 57.7; H, 5.15; N, 16.8%.

reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 1,4-phenylenediamine | C1(=CC=C(C=C1)N)N | C6H8N2
product | 4-(4'-aminoanilino)-6,7-dimethoxyquinazoline hydrochloride | 85% yield | Cl.NC1=CC=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1 | InChI=1S/C16H16N4O2.ClH/c1-21-14-7-12-13(8-15(14)22-2)18-9-19-16(12)20-11-5-3-10(17)4-6-11;/h3-9H,17H2,1-2H3,(H,18,19,20);1H
